US05824802
15. Preparation of 1-Ethyl-4-(2-chloro-3-(3,5-dimethylpyrazol-1-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole (Compound 67)
3,5-Dimethylpyrazole (215 mg, 2.23 mmol) was added to a suspension of 150 mg (3.75 mmol) of 60 percent oil dispersed sodium hydride in 6 mL of dry dimethylformamide. After gas evolution had subsided, 500 mg (1.45 mmol) of 1-ethyl-4-(2-chloro-3-fluoro-4-methylsulfonylbenzoyl)-5-hydroxypyrazole was added and the mixture was stirred at 50° C. overnight. The reaction mixture was concentrated by evaporation under reduced pressure and partitioned between dichloromethane and 1N aqueous hydrochloric acid. The aqueous phase was extracted with additional dichloromethane. The organic layers were combined and extracted with dilute aqueous sodium bicarbonate. The aqueous extract was acidified with 1N aqueous hydrochloric acid and the resulting mixture was extracted with ethyl acetate. The solvent was removed from the organic extract by evaporation under reduced pressure and the crystalline residue obtained was purified by rinsing with diethyl ether to obtain 360 mg (59 percent of theory) of the title compound as a white powder melting at 217°-218° C.

reactant | 3,5-Dimethylpyrazole | 2.23 mmol, 215 mg | CC1=NNC(=C1)C | C5H8N2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-ethyl-4-(2-chloro-3-fluoro-4-methylsulfonylbenzoyl)-5-hydroxypyrazole | 1.45 mmol, 500 mg | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)F)Cl)=O | C13H12ClFN2O4S
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 1-Ethyl-4-(2-chloro-3-(3,5-dimethylpyrazol-1-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)N1N=C(C=C1C)C)Cl)=O | C18H19ClN4O4S
